US07425551B2
a) N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-ethoxy-malonamic acid ethyl ester
Using (S)-7-amino-5-(2-benzyloxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one and 2-ethoxy-malonic acid monoethyl ester, the title compound was prepared in the same manner as described for example 1c. Colorless oil (94%). MS: m/e=517(M+H+).

reactant | (S)-7-amino-5-(2-benzyloxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(N(C1=O)CCOCC1=CC=CC=C1)C=CC=C3)C=CC=C2 | C23H22N2O2
reactant | 2-ethoxy-malonic acid monoethyl ester | C(C)OC(C(C(=O)O)OCC)=O | C7H12O5
product | N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-ethoxy-malonamic acid ethyl ester | C(C)OC(C(C(=O)N[C@H]1C2=C(C3=C(N(C1=O)CCOCC1=CC=CC=C1)C=CC=C3)C=CC=C2)OCC)=O | C30H32N2O6
